US03984458
Refer to Chart A. 3-Carboxypropyltriphenylphosphonium bromide is prepared by heating triphenylphosphine (156.8 g.) and 4-bromobutyric acid (100 g.) in 125 ml. of benzene at reflux for 18 hrs. The crystalline product is filtered off, washed with benzene, and recrystallized from ethanolacetonitrile-ether, 150 g., m.p. 247°-249° C.

reactant | triphenylphosphine | 156.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromobutyric acid | 100 g | BrCCCC(=O)O | C4H7BrO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Carboxypropyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H21O2P.BrH/c23-22(24)17-10-18-25(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16H,10,17-18H2;1H
